US07419989B2
3-(Methylamino)-1-(methanesulfonyl)pyrrolidine was prepared from 3-(methylamino)-1-benzylpyrrolidine after four steps: i) (Boc)2O, MeOH, rt; ii) H2 (1 atm), 10% Pd/C, EtOH; iii) CH3S(O)2Cl, i-Pr2NEt, CH2Cl2; iv) CF3CO2H, CH2Cl2. (m/z): [M+H]+ calcd for C6H14N2O2S: 179.08; found, 179.2. 3R-Methylamino-1-(methanesulfonyl)pyrrolidine was prepared in a similar manner from (3R)-(methylamino)-1-benzylpyrrolidine.

reactant | 3-(methylamino)-1-benzylpyrrolidine | CNC1CN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | (Boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | CH3S(O)2Cl | CS(=O)(=O)Cl | CH3ClO2S
reactant | i-Pr2NEt | CCN(C(C)C)C(C)C | C8H19N
reactant | CF3CO2H | C(F)(F)(F)C(=O)O | C2HF3O2
catalyst | Pd/C | [Pd] | Pd
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOH | CCO | C2H6O
solvent | MeOH | CO | CH4O
product | 3-(Methylamino)-1-(methanesulfonyl)pyrrolidine | CNC1CN(CC1)S(=O)(=O)C | C6H14N2O2S
